US08455477B2
3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropan-1-ol (990 mg, 4.75 mmol) [could be prepared in a manner similar to that described in WO2006078598A2, substituting tert-butyl(dimethyl)silylchloride for tert-butyl(diphenyl)silylchloride] and 2,6-lutidine (1.11 ml, 9.50 mmol) were dissolved in dichloromethane (23.8 ml) at 0° C. Triflic anhydride (0.92 ml, 5.46 mmol) was added dropwise via syringe and the solution was allowed to stir for 1 h at 0° C. The reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to give 3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropyl trifluoromethanesulfonate.

reactant | 3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropan-1-ol | 4.75 mmol, 990 mg | [Si](C)(C)(C(C)(C)C)OCC(CO)F | C9H21FO2Si
reactant | tert-butyl(diphenyl)silylchloride | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 2,6-lutidine | 9.50 mmol, 1.11 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | Triflic anhydride | 5.46 mmol, 0.92 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 23.8 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(CO[Si](C)(C)C(C)(C)C)F)(F)F | C10H20F4O4SSi
